US08222416B2
To a suspension of 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (2.0 g, 6.33 mmol) in dry tetrahydrofuran (15 mL) at −78° C. was added freshly prepared lithium diisopropylamide [prepared by adding 1.6 M n-butyllithium in n-hexane (5.3 mL, 8.55 mmol) to a 0° C. solution of diisopropylamine (1.3 mL, 9.2 mmol) in dry tetrahydrofuran (40 mL)] dropwise. The mixture was stirred at −78° C. for 5 min and then treated with isovaleraldehyde (1.4 mL, 13.3 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and then quenched with brine. The mixture was extracted with ethyl acetate (2×150 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 15% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-(1-hydroxy-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester as a colorless oil (938 mg, 35%): LC/MS m/e calcd for C20H23N2O5S [M+H]+ 403.47, observed 403.3; 1H NMR (400 MHz, CDCl3) δ ppm 1.04 (d, J=6.4 Hz, 3H), 1.06 (d, J=6.4 Hz, 3H), 1.82 (m, 1H), 1.94-2.03 (m, 2H), 3.30 (br, 1H), 3.94 (s, 3H), 5.45 (m, 1H), 6.70 (s, 1H), 7.49 (m, 2H), 7.59 (m, 1H), 8.19 (m, 2H), 8.41 (d, J=2.0 Hz, 1H), 9.01 (d, J=2.0 Hz, 1H).

reactant | 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 6.33 mmol, 2.0 g | COC(=O)C=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C15H12N2O4S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 8.55 mmol, 5.3 mL | CCCCCC | C6H14
reactant | diisopropylamine | 9.2 mmol, 1.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | isovaleraldehyde | 13.3 mmol, 1.4 mL | C(CC(C)C)=O | C5H10O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-benzenesulfonyl-2-(1-hydroxy-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 938 mg, 35% | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(CC(C)C)O)S(=O)(=O)C2=CC=CC=C2 | C20H22N2O5S
